Regression test for simple normal distribution sampling.

* This tests a few things.
*
* (1) the use of global parameters as sampling variables  (testNorm)
* (2) the mean, std dev, variance, skew and kurtosis of a derived sampling input variable, R1 - does not use ckt solution 
* (3) the mean, std dev, variance, skew and kurtosis of a circuit solution output variable, V(1)
* (4) the use of all of this with LHS sampling, rather than MC.
*
* The circuit is a simple voltage divider, so it has an analytic solution
* Also, the propagated mean, variance, etc can be computed analytically as well.
*
* Here is the results of that analytical analysis:
*
* analytical mean of R1 is 1.0e+3
* analytical std dev of R1 is  1e+2
* analytical variance of R1 is  1e+4
* analytical skew of R1 is 0.0
* analytical kurtosis of R1 is 3.0
*
* analytical mean of V1 is 875.0
* analytical std dev of V1 is  10.93
* analytical variance of V1 is  119.62
* analytical skew of V1 is 0.0
* analytical kurtosis of V1 is 3.0
*
* Analysis details:
*
* solution to voltage divider:  v(1) = V(2) * R2/(R1+R2)
* v(2) = 1000V
* mean value of R1 = 1e3
* mean value of R2 = 7e3
* analytical mean of v(1) is: 1000 * 7/(1+7) = 1000 * 7/8 = 875.0

* analytical variance is given by:
*
*  variance_v(1) = (dV(1)/dR1*dV(1)/dR1)*varianceR1  +   (dV(1)_dR2*dV(1)_dR2)*varianceR2;
*
*   dV(1)/dR1 = - V(2) * R2/(R1+R2)^2 = - 1000 * 7e3/(8e3*8e3)  = -7e6/64e6 = -7/64  = 0.109375
*   dV(1)/dR2 = + V(2) * R1/(R1+R2)^2 = + 1000 * 1e3/(8e3*8e3)  = +1e6/64e6 = +1/64 = 0.015625
*
*  variance_R2 = 0.0, so simplify and compute
*
*  variance_v(1) = (dV(1)/dR1*dV(1)/dR1)*varianceR1  
*                = (-7/64 * -7/64) * 1e4 
*                = (49/4096) * 1e4 
*                = 119.62
*
*  std_dev_V(1) = sqrt(variance_V(1)) = 10.93


.global_param testNorm=1.5k
.global_param R1value={testNorm*2.0}

R2 1 0 7K
R1 1 2 {R1value}
v1 2 0 1000V

.op

* normally distributed samples, mean=3k; std deviation=1k
.embeddedsampling 
+ param=testnorm
+ type=normal
+ means=0.5k
+ std_deviations=0.05k

* embedded outputs for device parameters like r1:r don't work yet.  erk. 2/8/2019
.options embeddedsamples numsamples=25000
+ outputs={V(1)}
*+ outputs={r1:r},{v(1)}
+ sample_type=mc
+ stdoutput=true

.end

